US08304539B2
A mixture of crude 4-acetyl-N,N-dimethylbenzamide (24.0 g) and N,N-dimethylformamide dimethyl acetal (100 mL) was heated to reflux for 15 h, cooled to room temperature and concentrated. The residue was washed with ether and dried under vacuum to provide (E)-4-(3-(dimethylamino)acryloyl)-N,N-dimethylbenzamide as brown solid (16 g, 27% yield over 2 steps). MS (ES+) m/z: 247 (M+H).

reactant | 4-acetyl-N,N-dimethylbenzamide | 24.0 g | C(C)(=O)C1=CC=C(C(=O)N(C)C)C=C1 | C11H13NO2
solvent | N,N-dimethylformamide dimethyl acetal | 100 mL | COC(N(C)C)OC | C5H13NO2
product | (E)-4-(3-(dimethylamino)acryloyl)-N,N-dimethylbenzamide | 27% yield | CN(/C=C/C(=O)C1=CC=C(C(=O)N(C)C)C=C1)C | C14H18N2O2
